US07932272B2
2-Methyl-benzoxazole-6-carboxylic acid methyl ester
To a solution of 4-amino-3-hydroxy-benzoic acid methyl ester (2085 mg, 12.47 mmmol) in xylene (200 mL) were added acetyl chloride (1.06 mL, 14.96 mmol), pyridinium p-toluenesulfonate (940 mg, 3.74 mmol) and triethylamine (2.09 mL, 14.96 mmol), and the solution was stirred for 8.5 hours under reflux. Ethyl acetate was added to the reaction mixture, which was then washed with water, dried over anhydrous magnesium sulfate, then, evaporated in vacuo, the resulting residue was purified by silica gel chromatography (hexane-ethyl acetate), and the title compound (1917 mg, 10.02 mmol, 80.4%) was obtained.

reactant | 4-amino-3-hydroxy-benzoic acid methyl ester | 2085 mg | COC(C1=CC(=C(C=C1)N)O)=O | C8H9NO3
reactant | acetyl chloride | 14.96 mmol, 1.06 mL | C(C)(=O)Cl | C2H3ClO
reactant | pyridinium p-toluenesulfonate | 3.74 mmol, 940 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | triethylamine | 14.96 mmol, 2.09 mL | C(C)N(CC)CC | C6H15N
solvent | xylene | 200 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methyl-benzoxazole-6-carboxylic acid methyl ester | 10.02 mmol, 1917 mg, 80.4% | COC(=O)C1=CC2=C(N=C(O2)C)C=C1 | C10H9NO3
